US08084614B2
A mixture of 3-bromo-4-chloro-benzoic acid methyl ester (3.13 g, 12.6 mmol), bis(pinacolato)diboron (4.79 g, 18.8 mmol), PdCl2 (dppf)2 (0.74 g, 1.0 mmol), KOAc (3.69 g, 37.7 mmol) in DMF (50 mL) was sealed and heated at 95° C. for 12 hrs. The mixture was partitioned between ethyl acetate and water. Organic layer was separated, washed with water, brine, dried over MgSO4. After filtration and concentration, purification by silica gel chromatography eluting with ethyl acetate/hexane (1/9) gave 4-chloro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester (3.5 g). NMR (DMSO-d6), δ, 8.19 (1H, d, J=2.1 Hz), 7.99 (1H, dd, J=2.1, 8.4 Hz), 7.58 (1H, d, J=8.4 Hz), 3.85 (3H, s), 1.31 (12H, s).

reactant | 3-bromo-4-chloro-benzoic acid methyl ester | 12.6 mmol, 3.13 g | COC(C1=CC(=C(C=C1)Cl)Br)=O | C8H6BrClO2
reactant | bis(pinacolato)diboron | 18.8 mmol, 4.79 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 37.7 mmol, 3.69 g | CC(=O)[O-].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-chloro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | 3.5 g | COC(C1=CC(=C(C=C1)Cl)B1OC(C(O1)(C)C)(C)C)=O | C14H18BClO4
